US07361763B2
To 5-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-pyridin-2-ol, 3,4-dimethoxyphenyl boronic acid (1.3 equiv.) and dichlorobis (triphenylphosphino)palladium (ii) (6 mol %) in a Smith process vial was added a 3:2:1 mixture of acetonitrile, water, and a 2 M solution of sodium carbonate in water to achieve an overall concentration of the starting material of 0.10 M. The reaction was run in a Personal Chemistry® microwave reactor at 165° C. for 1200 s. Water was added and the mixture extracted three times with ethyl acetate. Purification on silica gel with a gradient of MeOH/CH2Cl2 afforded 5-[5-(3,4-dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-pyridin-2-ol as an off-white solid (34% yield). 1H NMR (DMSO-d6): δ 11.86 (broad s, 1H), 11.67 (broad s, 1H), 8.52 (d, J=2.0 Hz, 1H), 8.22 (d, J=2.0 Hz, 1H), 7.89 (dd, J=2.5, 10 Hz, 1H), 7.75 (s, 1H), 7.73 (s, 1H), 7.29 (d, J=2.0 Hz, 1H), 7.23 (dd, J=2.0, 8.0 Hz, 1H), 7.04 (d, J=8.5 Hz, 1H), 6.44 (d, J=9.0 Hz, 1H), 3.85 (s, 3H), 3.79 (s, 3H); MS: m/z 348.1 [MH]+.

reactant | 5-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-pyridin-2-ol | BrC=1C=C2C(=NC1)NC=C2C=2C=CC(=NC2)O | C12H8BrN3O
reactant | 3,4-dimethoxyphenyl boronic acid | 1.3 equiv. | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
catalyst | dichlorobis (triphenylphosphino)palladium (ii) | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
product | 5-[5-(3,4-dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-pyridin-2-ol | 34% yield | COC=1C=C(C=CC1OC)C=1C=C2C(=NC1)NC=C2C=2C=CC(=NC2)O | C20H17N3O3
